* test that a device param can depend directly on temperature

.options device temp=23

VA 1 0 1.0
R1 1 2 'TEMPER'
R2 2 0 25
.DC VA 1 1 1

.step temp list 23 24 25

.PRINT DC V(1) {TEMPER}  R1:R V(2)

