*-------------------------------------------------------------------------
* Copyright Notice
*
* Copyright (c) 2000, Sandia Corporation, Albuquerque, NM.
*-------------------------------------------------------------------------
*
*-------------------------------------------------------------------------
* Filename       : $RCSfile$
*
* Purpose        : This test is mostly to test out various parameters that
*                  can be specified for the PDE device.  In particular,
*                  it tests the fixes for bug # 694 and bug # 521.
*
* Special Notes  : This only does the nonlinear poisson calculation, so it
*                  should be fast.  Bug #521 was to allow users to specify
*                  any number of electrodes, so for this test I've 
*                  specified 6 (before the fix to 521, the max was 4).  
*                  They don't really do anything (0V applied), but they exist.
*
*                  Also, this test specifies *all* the vector-composite
*                  data, including the last items of NODE and REGION. 
*                  (oxcharge and flaty, respectively).  Bug 694 was that 
*                  these parameters were not getting recognized by the
*                  parser.
*
*                  The contents of the *prn file will be trivial - all zeros.
*
*                  The real point of this test is for the circuit to NOT
*                  exit with a fatal error.
*
* Creator        : Eric R. Keiter, 9233, Computational Sciences
*
* Creation Date  : 03/20/03
*
* Revision Information:
* ---------------------
*
* Revision Number: $Revision$
*
* Revision Date  : $Date$
*
* Current Owner  : $Author$
*-------------------------------------------------------------------------
v2  2 0  0.0
v3  3 0  0.0
v4  4 0  0.0
v5  5 0  0.0
v6  6 0  0.0
v7  7 0  0.0
*-------------------------------------------------------------------------
YPDE DIODE 2 3 4 5 6 7 PDEDIODE 
+ sgplotlevel=0 tecplotlevel=2 gnuplotlevel=0 txtdatalevel=0
+ mobmodel=carr voltlim=0 cyl=0 meshfile=internal.msh 
+ outputnlpoisson=1
+ nx=15  l=70.0e-4
+ ny=13  w=26.0e-4 
* The old intrinsic calculation was used to generate gold standard.
* It is inaccurate, however. 
+ useOldNi=true
* ELECTRODES:
+ node={name           =     anode, cathode,  n4, n5, n6, n7
+       bc        =dirichlet,dirichlet,dirichlet,dirichlet,dirichlet,dirichlet
+       side           =       top, bottom,left,left, right,right
+       start          =     0.002, 0.002, 0.0005,0.0015,0.0005,0.0015
+       end            =     0.005, 0.005, 0.0010,0.0020,0.0010,0.0020
+       material       =   neutral, neutral,neutral,neutral,neutral,neutral
+       oxideBndryFlag =         0, 0, 0, 0, 0, 0
+       oxcharge       =       0.0, 0.0, 0.0, 0.0, 0.0, 0.0 }
*DOPING REGIONS:
+ region= {name     =       reg1,     reg2
+          function =    uniform, gaussian 
+          type     =      ntype,    ptype 
+          nmax     =    4.0e+16,  1.0e+19 
+          nmin     =    4.0e+16,  4.0e+16 
+          xloc     =        0.0,   0.0035
+          xwidth   =        0.0,   0.0015
+          flatx    =          0,        0  
+          yloc     =        0.0,   0.0026
+          ywidth   =        0.0,   0.0015 
+          flaty    =          0,        0 }
*-------------------------------------------------------------------------
.MODEL PDEDIODE  ZOD  level=2 
.options NONLIN maxstep=40 maxsearchstep=2 
+ searchmethod=0 in_forcing=0 nlstrategy=0 
.options TIMEINT DOUBLEDCOP=NL_POISSON

.DC v2 0 0 1
.print DC v(2) v(3) 
.END
